US07592358B2
51.1c. (5-but-3-ynylpyridin-2-yl)isopropylamine
Under an argon atmosphere 361 mg (1.88 mmol) of dimethyl (1-diazo-2-oxopropyl)phosphonate in 4 mL of MeOH was added to a solution of 300 mg (1.57 mmol) of 3-(6-isopropylaminopyridin-3-yl)propionaldehyde and 434 mg (3.14 mmol) of potassium carbonate in 6 mL of MeOH and the mixture was stirred for 3 hours at RT. The reaction mixture was diluted with water and EtOAc, combined with saturated aqueous sodium hydrogen carbonate solution, and the organic phase was separated off, extracted with water, dried over magnesium sulfate, filtered, and the solvent was removed in vacuo. Yield: 220 mg (75% of theoretical); C12H16N2 (M=188.269); calc.: molpeak (M+H)+:189; found: molpeak (M+H)+:189; HPLC-MS: 4.09 minutes (method G).

reactant | dimethyl (1-diazo-2-oxopropyl)phosphonate | 1.88 mmol, 361 mg | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
reactant | 3-(6-isopropylaminopyridin-3-yl)propionaldehyde | 1.57 mmol, 300 mg | C(C)(C)NC1=CC=C(C=N1)CCC=O | C11H16N2O
reactant | potassium carbonate | 3.14 mmol, 434 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | MeOH | 6 mL | CO | CH4O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-but-3-ynylpyridin-2-yl)isopropylamine | C(CC#C)C=1C=CC(=NC1)NC(C)C | C12H16N2
